US06573286B1
Compound 48, (4S,5R)-4-(4-bromophenyl)-2-(2,6-difluorophenyl)-5-methyl-4,5-dihydro-1,3-oxazole
A 50 mL round bottom flask equipped with a stir bar, thermocouple, and a reflux condenser was charged with (2R)-1-amino-1-(4-bromophenyl)propan-2-ol (480 mg, 2.09 mmol), triethylamine (222 mg, 0.3 mL, 2.19 mmol) and THF (10 mL). The reaction mixture was cooled to 10° C. 2,6-Difluorobenzoyl chloride (387 mg, 2.1 mmol) was added to the THF solution keeping the temperature <30° C. The reaction mixture was stirred at 25-30° C. for 2 hours. Dichloromethane (40 mL) and water (60 mL)were added and the phases were separated. The aqueous layer was extracted with dichloromethane (2×20 mL). The combined organic extracts were washed with aq. 0.5 N HCl (50 mL) and brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to give crude amide, which was placed in a 50 mL round bottom flask equipped with a stir bar, thermocouple, and a reflux condenser. The residue was dissolved in dichloromethane (25 mL), and the reaction mixture was cooled to −78° C. (Diethylamino)sulfur trifluoride (337 mg, 0.28 mL, 2.09 mmol) was added to the dichloromethane solution keeping the temperature −70° C. The reaction mixture was allowed to warm to 25° C. while stirring over 16 h. The reaction mixture was poured into 50 g ice containing conc. ammonium hydroxide (5 mL). The phases were separated and the aqueous layer was extracted with dichloromethane (2×50 mL). The combined organic extracts were washed with brine (50 mL), dried over sodium sulfate, filtered, and concentrated under reduced pressure to give crude product as a mixture of diastereomers. Column chromatography gave two products (270 mg of (4S,5S) as an oil and 171 mg of (4S,5R) as an oil, 60% overall yield for the combined isomers over the two steps).

reactant | (2R)-1-amino-1-(4-bromophenyl)propan-2-ol | 2.09 mmol, 480 mg | NC([C@@H](C)O)C1=CC=C(C=C1)Br | C9H12BrNO
reactant | triethylamine | 2.19 mmol, 0.3 mL, 222 mg | C(C)N(CC)CC | C6H15N
reactant | 2,6-Difluorobenzoyl chloride | 2.1 mmol, 387 mg | FC1=C(C(=O)Cl)C(=CC=C1)F | C7H3ClF2O
reactant | (Diethylamino)sulfur trifluoride | 2.09 mmol, 0.28 mL, 337 mg | C(C)N(CC)S(F)(F)F | C4H10F3NS
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
solvent | Dichloromethane | 40 mL | ClCCl | CH2Cl2
solvent | water | 60 mL | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (4S,5R)-4-(4-bromophenyl)-2-(2,6-difluorophenyl)-5-methyl-4,5-dihydro-1,3-oxazole | BrC1=CC=C(C=C1)[C@@H]1N=C(O[C@@H]1C)C1=C(C=CC=C1F)F | C16H12BrF2NO
